Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
indomethacin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, Imaging finding of partial bowel obstruction at 
OSH
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ was a ___ year old M w/ ___ Ewing sarcoma with 
metastases to his left lung and extension into bladder 
whopresented with abdominal pain.

Patient reported progressive lower abdominal pain beginning 
___. He had 1 episode of nausea/vomiting that evening. 
Since then pain had progressed such that he has only eaten 
liquids and had not passed gas or moved his bowels. He passed a 
small amount of liquids and small gas the night prior to 
admission after using stool softeners and magnesium laxative. 
Patient was seen in ___ emergency department and had CT 
scans was then transferred to ___ for further care of partial 
obstruction. He denied fever, chills, shortness of breath, 
dysuria, hematuria, hematochezia or melena in past weeks. 
 
Past Medical History:
Ewing Sarcoma
 
Social History:
___
Family History:
The patient states there are no diseases that tend to run in his 
family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.6 138 / 88831897Ra
GENERAL: NAD, AAOX3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, tender in all quadrants, especially RLQ
and umbilical area, no rebound/guarding, no hepatosplenomegaly.
Hyperactive BS.
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
VITALS:  98.7, 120/76, 73, 18, 96% RA
GENERAL: well appearing, NAD 
HEENT: EOMI, MMM, NC/AT
CV: RRR nl s1/s2, no m/r/g
RESP: CTA b/l, no w/r/c
GI: scaphoid, soft, non-distended, diffusely tender, worst in
RLQ, some voluntary guarding, abd pain appears decreased over
yesterday, BS hypoactive but increased over yesterday
MSK: Non-edematous, 2+ pulses

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:12AM BLOOD WBC-5.2 RBC-3.36*# Hgb-9.8*# Hct-29.7*# 
MCV-88 MCH-29.2 MCHC-33.0# RDW-14.1 RDWSD-44.2 Plt ___
___ 05:12AM BLOOD Glucose-91 UreaN-7 Creat-0.7 Na-138 K-3.7 
Cl-100 HCO3-27 AnGap-11
___ 05:12AM BLOOD ALT-8 AST-15 LD(LDH)-195 AlkPhos-71 
TotBili-0.3
___ 05:12AM BLOOD Albumin-2.8* Calcium-7.7* Phos-2.1* 
Mg-2.1

DISCHARGE LABS
==============
No discharge labs, the PCP was notified of this by email and a 
message by phone to the office. This summary will also be sent.

IMAGING:
========
1. Large infiltrative pelvic mass involving the right lateral 
urinary bladder and lower anterior pelvic sidewall as described 
abuts and likely arises from the right superior pubic ramus.  
This may represent local progression of patient's known right 
iliac Ewing sarcoma, correlation with prior imaging and oncology 
history is recommended.  Radiation-induced sarcoma can also be 
considered given patient's age. MRI of the pelvis is recommended 
to better evaluate extent of bone and soft tissue involvement. 
2. There is involvement of the right ureterovesicular junction 
causing mild right hydroureteronephrosis. 
3. 15 mm pulmonary nodule in the lingula and a 10 mm pleural 
based nodule in the left lateral lower lobe are new when 
compared to the prior study and highly concerning for 
intrathoracic metastatic disease. 
4. Ill-defined sclerotic lesion within the L4 vertebral body may 
be radiation induced osteitis or represent metastatic disease.  
Correlation with patient's radiotherapy history is recommended. 
5. No evidence of bowel obstruction.  Distal small bowel wall 
thickening and submucosal fatty infiltration are most likely a 
sequela of the chronic 
inflammation, possibly radiation enteritis. 
6.  Gas within the urinary bladder may be related to recent 
catheterization.  If there has been no  recent catheterization, 
colovesicular fistula should be considered given prior history 
of pelvic radiation. 
7. Large right-sided hydrocele. 

MICROBIOLOGY:
=============
None

 
Brief Hospital Course:
Mr. ___ was a ___ year old M w/ ___ sarcoma with 
metastases to his left lung and extension into bladder who 
presented to ___ with abdominal pain, nausea, obstipation, 
found to have partial bowel obstruction and hydronephrosis ___ 
ureteral obstruction. 

 ACUTE ISSUES: 
 ============= 
#Partial bowel obstruction: 
#Ewing Sarcoma:
On admission surgery was consulted, who discussed the outside 
imaging with radiology who felt that this was a partial small 
bowel obstruction secondary to enteritis because of thickened 
bowel walls seen on imaging. There was no obvious extrinsic 
compression seen. Notably, the focus of thickened bowel wall was 
located in the region of prior radiation treatment. However, the 
patient lacked symptoms consistent with enteritis. Votrient was 
held, but there was low suspicion that this was the etiology of 
any enteritis. Additionally, on the floor the patient denied 
nausea or vomiting and his abdominal exam while tender did not 
suggest a need for decompression. He was managed conservatively 
with IV fluids, pain medication and his diet was slowly advanced 
successfully. On discharge the patient was tolerating solid food 
without nausea, vomiting, or worsening of baseline abdominal 
pain. He was passing flatus.

#Hydronephrosis
Patient was noted on ___ scan to have moderate to severe 
right hydronephrosis due to obstruction of the ureterovesical 
junction from the malignant mass in the pelvis. Creatinine was 
normal, he had no flank pain, and there was no evidence of a 
urinary tract infection. Urology was consulted who did not feel 
an urgent intervention was necessary. These recommendations were 
discussed with Dr. ___ oncologist) who agreed with plan 
for close follow up at ___.

 CHRONIC ISSUES:
 ===============
#Anemia
Patient noted to be anemic, new from last ___ labs in ___. 
Given extensive cancer treatment, it was felt this could be 
related to chemotherapy. He was monitored for any evidence of 
bleeding which was never noted.

 TRANSITIONAL ISSUES:
 ====================
[ ] Follow up on partial bowel obstruction possibly due to 
enteritis, worst in the region of radiation therapy.
[ ] Follow up on right hydronephrosis and possible indication 
for nephrostomy for renal protection.
[ ] Follow up on laboratory values from this admission - please 
re-check CBC and chem7
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Votrient (PAZOPanib) 200 mg oral DAILY 
2. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*14 Capsule Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth once a day Disp #*7 Packet Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
4.  Votrient (PAZOPanib) 200 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Partial Small Bowel Obstruction

Secondary Diagnosis:
Right Hydronephrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You were brought to the hospital because you had abdominal pain 
an imaging study at ___ Emergency Department showed your 
bowels were partially obstructed and that your right kidney was 
swollen.

WHAT HAPPENED WHILE YOU WERE HERE?
- You were given pain medications and IV fluids to keep you 
hydrated while your bowels rested.
- The urology team evaluated the situation and felt that the 
swollen kidney ("hydronephrosis") was not an problem that 
required urgent intervention.
- You were observed to see how your bowels would respond to 
food.
- These events were discussed throughout the hospital stay with 
your oncologist, Dr. ___.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
 Please continue to take all of your medications as directed, 
and follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___